US07259175B2
3-(4-{Methoxycarbonyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-2-methyl-phenyl)-propionic acid methyl ester
To a 0° C. solution of 3-(2-Methyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenyl)-propionic acid methyl ester (0.05 g, 0.11 mmol) and pyridine (0.027 mL, 0.33 mmol) in anhydrous CH2Cl2 (3 mL) is added methyl chloroformate (0.026 mL, 0.34 mmol) dropwise. The mixture is allowed to warm to RT overnight. Water is added, and the mixture is extracted with CH2Cl2. The combined organics are dried with MgSO4 and concentrated to yield the title compound (57 mg, quant.)

reactant | 3-(2-Methyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-phenyl)-propionic acid methyl ester | 0.11 mmol, 0.05 g | COC(CCC1=C(C=C(C=C1)NCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C23H23F3N2O2S
reactant | pyridine | 0.33 mmol, 0.027 mL | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 0.34 mmol, 0.026 mL | ClC(=O)OC | C2H3ClO2
reactant | Water | O | H2O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-{Methoxycarbonyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-amino}-2-methyl-phenyl)-propionic acid methyl ester | 57 mg | COC(CCC1=C(C=C(C=C1)N(CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C(=O)OC)C)=O | C25H25F3N2O4S
